US08198267B2
1-(2-Fluoropyridin-3-yl)propan-1-ol
A freshly prepared LDA solution (68.0 mmol) in 500 ml of THF is cooled to −75° C., and 6.00 g (61.8 mmol) of 2-fluoropyridine are added. The mixture is left to stir at this temperature for 2 h, in the course of which a suspension forms. Thereafter, 4.31 g (74.2 mmol) of propanal are added, in the course of which the internal temperature rises to −45° C. After 2 h, the mixture is allowed to come to RT, poured onto saturated ammonium chloride solution and extracted three times with tert-butyl methyl ether. The combined organic phases are washed with sodium chloride solution, dried over sodium sulfate and concentrated. They are purified by chromatography on silica gel (eluent: dichloromethane, then dichloromethane/methanol=25:1). This affords 8.00 g (76% of theory) of the title compound.

reactant | LDA | 68.0 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 2-fluoropyridine | 61.8 mmol, 6.00 g | FC1=NC=CC=C1 | C5H4FN
reactant | propanal | 74.2 mmol, 4.31 g | C(CC)=O | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 1-(2-Fluoropyridin-3-yl)propan-1-ol | FC1=NC=CC=C1C(CC)O | C8H10FNO
